US06667301B2
A mixture of 1-(2,2-dimethoxyethyl)-piperidin-2-one (1.06 g, 5.67 mmole) in 5% aqueous tetrahydrofuran (20 mL) was heated under reflux for 1 hour. The mixture was dried with anhydrous magnesium sulfate, filtered, and concentrated to give (2-oxo-piperidin-1-yl)-acetaldehyde (0.69 g) as a pale yellow oil.

reactant | 1-(2,2-dimethoxyethyl)-piperidin-2-one | 5.67 mmole, 1.06 g | COC(CN1C(CCCC1)=O)OC | C9H17NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2-oxo-piperidin-1-yl)-acetaldehyde | 0.69 g | O=C1N(CCCC1)CC=O | C7H11NO2
